US08580957B2
A flask was charged with 4-{(2S,4R)-1-acetyl-4-[(4-chlorophenyl)amino]-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl}benzoic acid (for a preparation see example 6) (109 mg, 0.251 mmol), HOBT.NH3 (85 mg, 0.501 mmol) and EDC (57.7 mg, 0.301 mmol) then filled with dichloromethane (DCM) (5 mL) and the resulting mixture was treated with N-ethylmorpholine (NEM) (0.095 mL, 0.752 mmol) then stirred a room temperature. After 4 h, 50% of the previous quantities of EDAC, HOBT and NEM were added and the resulting mixture was stirred at room temperature for 16 h. Most of the DCM was removed in vacuo and the residue was partitioned between AcOEt and water. The layers were separated and the aqueous phase was extracted with AcOEt. The combined organic phases were washed twice with a saturated NaHCO3 aqueous solution then brine, dried over MgSO4 and concentrated in vacuo. The residue was triturated with Et2O then filtered off and dried under house vacuum to give 4-{(2S,4R)-1-acetyl-4-[(4-chlorophenyl)amino]-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl}benzamide (75 mg, 0.173 mmol, 69.0% yield) as a very pale yellow solid.

reactant | 4-{(2S,4R)-1-acetyl-4-[(4-chlorophenyl)amino]-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl}benzoic acid | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C(=O)O)C=C1)NC1=CC=C(C=C1)Cl)C | C25H23ClN2O3
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH3 | 0.501 mmol, 85 mg | N | H3N
reactant | EDC | 0.301 mmol, 57.7 mg
reactant | N-ethylmorpholine | 0.752 mmol, 0.095 mL | C(C)N1CCOCC1 | C6H13NO
reactant | EDAC | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-{(2S,4R)-1-acetyl-4-[(4-chlorophenyl)amino]-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl}benzamide | 0.173 mmol, 75 mg, 69.0% yield | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C(=O)N)C=C1)NC1=CC=C(C=C1)Cl)C | C25H24ClN3O2
